US07601738B2
4-Benzyl-2-fluoro-benzonitrile
To a solution of 16.0 g (116.6 mmol) of 2-fluoro-4-hydroxybenzonitrile and 50.0 g (140.0 mmol) of N-phenyltrifluoromethanesulfonimide in 250 mL of dichlorormethane is added N,N-diisopropylethylamine and the mixture is stirred for 16 hr at room temperature. The mixture is then washed with 10% aqueous sodium bisulfate. The organic portion is separated and the aqueous portion is extracted three times with dichlorormethane. The combined organic portions are dried (Na2SO4), filtered and concentrated in vacuo. Chromatography (silica gel, 50% chloroform/hexane) of the residue affords 26.7 g (85%) of the title compound.

reactant | 2-fluoro-4-hydroxybenzonitrile | 116.6 mmol, 16.0 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | N-phenyltrifluoromethanesulfonimide | 140.0 mmol, 50.0 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-Benzyl-2-fluoro-benzonitrile | 26.7 g, 85% | C(C1=CC=CC=C1)C1=CC(=C(C#N)C=C1)F | C14H10FN
